US08466283B2
Step 4: Preparation of 6-(4,5-dihydro-1H-imidazol-2-yl)-2-methoxy-3-(3-morpholin-4-ylpropoxy)aniline
To a degassed mixture of 2-amino-3-methoxy-4-(3-morpholin-4-ylpropoxy)benzonitrile (6.5 g, 22.2 mmol) and ethylene diamine (40 mL) was added sulfur (1.8 g, 55.4 mmol). The mixture was stirred at 100° C. for 3 h at which time water was added to the reaction mixture. The precipitate that was formed was collected and washed with water and then dried overnight under vacuum to provide the title compound (3.2 g, 43%): HPLC MS RT=1.25 min, MH+=335.2; 1H NMR (DMSO-d6) δ: 7.15 (1H, d), 6.86 (2H, br s), 6.25 (1H, d), 4.02 (2H, t), 3.66 (3H, s), 3.57 (8H, m), 2.46 (2H, t), 2.44 (4H, m), 1.89 (2H, quint.).

reactant | 2-amino-3-methoxy-4-(3-morpholin-4-ylpropoxy)benzonitrile | 22.2 mmol, 6.5 g | NC1=C(C#N)C=CC(=C1OC)OCCCN1CCOCC1 | C15H21N3O3
reactant | ethylene diamine | 40 mL | C(CN)N | C2H8N2
reactant | sulfur | 55.4 mmol, 1.8 g | [S] | S
solvent | water | O | H2O
product | 6-(4,5-dihydro-1H-imidazol-2-yl)-2-methoxy-3-(3-morpholin-4-ylpropoxy)aniline | 3.2 g, 43% | N1C(=NCC1)C1=CC=C(C(=C1N)OC)OCCCN1CCOCC1 | C17H26N4O3
